US07371852B2
1-Hydroxy-1-(4-pyridinyl)-10-phthalimidodecane (1 equiv.) is dissolved in THF with stirring. Phthalimide (1.5 equiv.) and triphenylphosphine (2.1 equiv.) are added to the solution and the resulting mixture is cooled to 0° C. Diisopropyl azodicarboxylate (2.0 equiv.) is added dropwise to the above solution and the reaction is stirred until completion. The resulting solid is filtered off and the filtrate is concentrated in vacuo. The crude product is purified by silica gel chromatography to yield 1,10-diphthalimido-1-pyridinyldecane.

reactant | 1-Hydroxy-1-(4-pyridinyl)-10-phthalimidodecane | 1 equiv. | OC(CCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=NC=C2 | C23H28N2O3
reactant | Phthalimide | 1.5 equiv. | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 2.1 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 2.0 equiv. | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 1,10-diphthalimido-1-pyridinyldecane | C1(C=2C(C(N1C(CCCCCCCCCN1C(C=3C(C1=O)=CC=CC3)=O)C3=NC=CC=C3)=O)=CC=CC2)=O | C31H31N3O4
